US06713499B2
To a stirred solution of 7.34 g (31.0 mmol) 4-bromo-2-nitro-anisole in 125 ml dioxane were added 5.25 g (37.2 mmol) (1S,4S)-(+)-2-aza-5-oxabicyclo[2,2,1]heptane hydrochloride, 1.109 g (3.10 mmol) 2-(dicyclohexylphosphino)biphenyl, 14.2 g (43.4 mmol) cesium carbonate, 696 mg (3.10 mmol) palladium (II) acetate and 5.65 ml (40.3 mmol) triethylamine. The mixture was heated at reflux for 24 h and then poured onto water and extracted three times with ethyl acetate. The combined organic phases were dried over sodium sulfate and concentrated in vacuo. Flash chromatography (1/99 methanol/dichloromethane) afforded 5.10 g (66%) (1S,4S)-5-(4-methoxy-3-nitro-phenyl)-2-oxa-5-aza-bicyclo[2.2.1]heptane as an orange oil. ES-MS m/e (%): 251 (M+H+, 100).

reactant | 4-bromo-2-nitro-anisole | 31.0 mmol, 7.34 g | BrC1=CC(=C(C=C1)OC)[N+](=O)[O-] | C7H6BrNO3
reactant | (1S,4S)-(+)-2-aza-5-oxabicyclo[2,2,1]heptane hydrochloride | 37.2 mmol, 5.25 g | Cl.[C@@H]12NC[C@@H](OC1)C2
reactant | 2-(dicyclohexylphosphino)biphenyl | 3.10 mmol, 1.109 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
reactant | cesium carbonate | 43.4 mmol, 14.2 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | triethylamine | 40.3 mmol, 5.65 ml | C(C)N(CC)CC | C6H15N
solvent | dioxane | 125 ml | O1CCOCC1 | C4H8O2
catalyst | palladium (II) acetate | 3.10 mmol, 696 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (1S,4S)-5-(4-methoxy-3-nitro-phenyl)-2-oxa-5-aza-bicyclo[2.2.1]heptane | 5.10 g, 66% | COC1=C(C=C(C=C1)N1[C@@H]2CO[C@H](C1)C2)[N+](=O)[O-] | C12H14N2O4
